US06855757B2
Hydrolysis of Dibutyl Carboxyethylmethylphosphinate 528 g (2 mol) of the dibutyl carboxyethylmethylphosphinate obtained according to Example 4 are charged to a 1 l five-neck flask fitted with thermometer, reflux condenser, high-speed stirrer and dropping funnel. At 160° C., 500 ml of water are metered in over 4 h and a butanol-water mixture is distilled off. 281 g of butanol are obtained, which corresponds to 95% of theory. The distillatively removed butanol is re-used to esterify the methylphosphonous acid. 300 g of carboxyethylmethylphosphinic acid are obtained as a white solid having a melting point of about 95° C. and a 31P NMR purity of >97%.

reactant | water | 500 ml | O | H2O
reactant | methylphosphonous acid | CP(O)O | CH5O2P
reactant | butanol | C(CCC)O | C4H10O
product | carboxyethylmethylphosphinic acid | 300 g | C(=O)(O)CCP(O)(=O)C | C4H9O4P
